US08044206B2
After 4.34 g of N-bromosuccinimide and 0.54 g of benzoyl peroxide were added to a solution of 3.03 g of 2,3-dimethylanisole in 70 ml of carbon tetrachloride, the mixture was heated under reflux for 30 minutes. After cooling, insoluble solid in the reaction mixture were filtered off and the filtrate was concentrated under reduced pressure to give an oil. The obtained oil was dissolved in 50 ml of benzene, and 5.82 g of triphenylphosphine was added to the solution. The mixture was heated under reflux for 11 hours. After cooling, the precipitated crystals were collected by filtration and recrystallized from methylene chloride-benzene to give 6.51 g of (2-methoxy-6-methylbenzyl)(triphenyl)phosphonium bromide as colorless crystals.

reactant | N-bromosuccinimide | 4.34 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.54 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | 2,3-dimethylanisole | 3.03 g | CC1=C(C=CC=C1C)OC | C9H12O
reactant | triphenylphosphine | 5.82 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | carbon tetrachloride | 70 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | (2-methoxy-6-methylbenzyl)(triphenyl)phosphonium bromide | 6.51 g | [Br-].COC1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=CC=C1)C | InChI=1S/C27H26OP.BrH/c1-22-13-12-20-27(28-2)26(22)21-29(23-14-6-3-7-15-23,24-16-8-4-9-17-24)25-18-10-5-11-19-25;/h3-20H,21H2,1-2H3;1H/q+1;/p-1
